US07858800B2
2) Production of 1-(2-fluorophenyl)-5-methoxymethyl-4-trimethylsilanyl-1H-[1,2,3]triazole
A reaction was carried out by the method mentioned in Example 8-2 except that 1-azido-2-fluorobenzene was used in place of 1-azido-2-chlorobenzene used in Example 1-2 and that (3-methoxy-1-propynyl)-trimethylsilane prepared in the above 1) was used in place of tributyl (1-propynyl)tin used in Example 8-2 to give the title compound.

reactant | 1-azido-2-fluorobenzene | N(=[N+]=[N-])C1=C(C=CC=C1)F | C6H4FN3
reactant | (3-methoxy-1-propynyl)-trimethylsilane | COCC#C[Si](C)(C)C | C7H14OSi
reactant | tributyl (1-propynyl)tin | C(CCC)[Sn](C#CC)(CCCC)CCCC
product | 1-(2-fluorophenyl)-5-methoxymethyl-4-trimethylsilanyl-1H-[1,2,3]triazole | FC1=C(C=CC=C1)N1N=NC(=C1COC)[Si](C)(C)C | C13H18FN3OSi
